US08222416B2
To a 250 mL round bottomed flask charged with 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-ethanol (690 mg, 1.86 mmol) was added a 0.3 M solution of Dess-Martin periodinane in methylene chloride (12.4 mL, 3.72 mmol) at 25° C. The reaction mixture was stirred at 25° C. for 1 h before quenching with saturated aqueous sodium bicarbonate solution (60 mL). The mixture was extracted with ethyl acetate (250 mL), washed with saturated aqueous sodium bicarbonate solution (50 mL×3), brine, dried over anhydrous sodium sulfate and then concentrated in vacuo to give 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-ethanone (685 mg, quant.) as a light yellow solid which was used for the next step without further purification: LC/MS m/e calcd for C20H21N2O3S [M+H]+ 369.12, observed 369.0.

reactant | 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-ethanol | 1.86 mmol, 690 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=CC2)C(CC2CCCC2)O | C20H22N2O3S
reactant | Dess-Martin periodinane | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | methylene chloride | 3.72 mmol, 12.4 mL | C(Cl)Cl | CH2Cl2
product | 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-ethanone | 685 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=CC2)C(CC2CCCC2)=O | C20H20N2O3S
